Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / ibuprofen / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
Bright Red Blood Per Rectum
 
Major Surgical or Invasive Procedure:
Colonoscopy with clip placement ___

 
History of Present Illness:
This is a ___ male with PMHx significant for thalassemia 
who is presenting with bright red blood per rectum and syncope. 
He reports that he had a colonoscopy on ___ (one day prior to 
admission) with removal of 11 polyps (at ___ by Dr. 
___. He reports that all day prior to admission he 
felt fatigued. He then had a bright red bowel movement at 10 am. 
He then had another bloody bowel movement at 11 am. He started 
to feel anxious so he called his GI doctor. While he was on the 
phone explaining his situation, he started to feel diaphoretic 
and lost consciousness.  He denies head strike or lsos of bowel 
or bladder continence. He denies preceding chest pain, shortness 
of breath, or palpitations. 

In the ED, initial vitals: 97.5 66 104/53 19 99% RA 
- Exam notable for: cap refill 2sec, abdomen soft, nt, rectum 
with small amount of frank red blood
- Labs notable for: 
WBC 9.1, Hgb 13.9, Hct 42.8, Plt 256
Na 136 K 5.8 (hemolyzed, repeat 4.5), Cl 105, HCO3 20, BUN 17, 
Cr 1
- Imaging notable for:
- EKG: Sinus rhythm, Rate 65, left axis deviation, normal 
intervals, no ST changes
- Vitals prior to transfer: 76 109/64 16 100% RA 

On arrival to the floor, pt reports that he had two more small 
bloody bowel movements in the emergency department. He reports 
that he feels "unwell" when he stands up, but denies chest pain, 
shortness of breath, lightheadedness, or dizziness.
 
Past Medical History:
Thalassemia
Hiatal Hernia
Low testosterone and gynecomastia
 
Social History:
___
Family History:
Father with prostate cancer.
Mother with breast cancer
Sister with liposarcoma.
Uncle with DM and MI in his ___.
No family history of colon cancer.
 
Physical Exam:
==========
ADMISSION
==========
Vitals:  98.2 149/79 66 18 100% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, no conjunctival pallor, dry mucous 
membranes 
Neck: supple, JVP not elevated
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, no focal deficits 

===========
DISCHARGE
===========
Vitals: 98.5 164/75 73 16 95% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, no conjunctival pallor, dry mucous 
membranes 
Neck: supple, JVP not elevated
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, right ankle swollen with 
some point tenderness over medial and lateral malleolus, full 
ROM intact and able to bear weight.
 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 12:40PM BLOOD WBC-9.1 RBC-5.54 Hgb-13.9 Hct-42.8 
MCV-77* MCH-25.1* MCHC-32.5 RDW-14.5 RDWSD-40.0 Plt ___
___ 12:40PM BLOOD Neuts-79.0* Lymphs-11.6* Monos-7.7 
Eos-1.2 Baso-0.2 Im ___ AbsNeut-7.14* AbsLymp-1.05* 
AbsMono-0.70 AbsEos-0.11 AbsBaso-0.02
___ 12:40PM BLOOD Glucose-150* UreaN-17 Creat-1.0 Na-136 
K-5.8* Cl-105 HCO3-20* AnGap-17
___ 12:40PM BLOOD cTropnT-<0.01
___ 07:21AM BLOOD cTropnT-<0.01
___ 07:21AM BLOOD Calcium-8.4 Phos-2.9 Mg-2.0
___ 05:01PM BLOOD K-4.5

===============
DISCHARGE LABS
===============
___ 07:10AM BLOOD WBC-6.2 RBC-4.44* Hgb-11.0* Hct-34.7* 
MCV-78* MCH-24.8* MCHC-31.7* RDW-14.4 RDWSD-40.1 Plt ___
___ 07:10AM BLOOD Glucose-97 UreaN-9 Creat-0.8 Na-141 K-4.0 
Cl-106 HCO3-22 AnGap-17

==========
IMAGING
==========
-Right Ankle X ray: Lateral ankle soft tissue swelling without 
acute fracture seen

-Colonoscopy ___: Blood was seen throughout the colon. There 
were multiple polypectomy sites seen. Two were oozing blood. one 
in the transverse colon and one at the IC valve. Clips were 
placed at these sites with hemostasis. The TI was intubated > 
20cm and there was blood noted to be in the TI as well.  Five 
endoclips were successfully applied to the ascending colon 
polypectomy site and transverse colon polypectomy site for the 
purpose of hemostasis. single hepatic flexure polyp seen but not 
removed given bleeding 
 
Brief Hospital Course:
This is a ___ male with PMHx significant for thalassemia 
who is presenting with bright red blood per rectum and syncope. 
He underwent colonoscopy with 11 polyps removed the day prior to 
admission with multiple subsequent bloody bowel movements and an 
episode of syncope.

=============
ACUTE ANEMIA
=============
# Syncope: Patient with one episode of syncope without 
headstrike. Etiology most likely orthostasis in the setting of 
dehydration from recent colonoscopy prep and blood loss from 
post-polypectomy GIB (see below). Orthostatic vital signs 
positive, received 2L IVF. ACS unlikely as patient without chest 
pain, palpitations, trops negative x2. Tele without events. 
Seizure unlikely given that syncope was witnessed and patient 
did not have any movements concerning for seizure, no loss of 
bowel or bladder continence. Electrolytes wnl. Infection 
unlikely as WBC wnl and no localizing signs or symptoms of 
infection. 

# Post-Polypectomy GIB: Patient with multiple episodes of BRBPR 
which started one day after colonoscopy with removal of 11 
polyps. Remained hemodynamically stable with drop in Hgb from 
13.9 to 11.1. Underwent repeat colonoscopy during 
hospitalization which revealed two bleeding polypectomy sites 
which were clipped.

# Ankle Pain: Patient twisted ankle when he syncopized, X ray 
without evidence of fracture. Recommended rest, ice, 
compression, and elevation.

===================
TRANSITIONAL ISSUES
===================
[] Discharge Hemoglobin/Hct ___
[] Follow up with gastroenterologist regarding the hepatic 
flexure polyp which remains
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Lower Gastrointestinal Bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital because you were having bloody 
bowel movements and you passed out. You passed out because of 
dehydration in the setting of your recent colonoscopy and blood 
loss from your bleed.

To evaluate your bloody bowel movements, you underwent a repeat 
colonoscopy which showed that you were bleeding from two sites 
where polyps were removed. You had clips placed which stopped 
the bleeding. 

You had an X ray performed of your ankle which did not show any 
fracture. Please continue to use wrap it with an ace bandage and 
keep it elevated as much as possible.

Please follow up with your primary care doctor at the 
appointment scheduled for you. Please also follow up with your 
gastroenterologist to discuss the last polyp that should be 
removed at some point.

It was a pleasure meeting and taking care of you while you were 
in the hospital.

- Your ___ Team
 
Followup Instructions:
___